US07429665B2
3-Fluoro-4-[4-pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenol
To 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-yl]-pyridine (900 mg) was added trifluoroacetic acid (5.25 ml) and anisole (1.15 ml) and the reaction mixture heated at reflux for 18 h. The reaction mixture was quenched with with 1N NaOH, extracted 3× tetrahydrofuran, dried magnesium sulfate, filtered and concentrated. Purification via Biotage MPLC eluting with 5% methanol/1% ammonium hydroxide/ethyl acetate provided the title compound (552 mg). MS: (M+H m/z=338.2).

reactant | 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-yl]-pyridine | 900 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F)F | C23H17F4N3O
reactant | trifluoroacetic acid | 5.25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 1.15 ml | C1(=CC=CC=C1)OC | C7H8O
product | 3-Fluoro-4-[4-pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenol | 552 mg | FC=1C=C(C=CC1C1=NN(C=C1C1=CC=NC=C1)CC(F)(F)F)O | C16H11F4N3O
